US07186729B2
Step 1: [(4-Chloro-benzyl)-(1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-pyrrolidin-3-yl)-amino]-acetic acid
To a solution of [(4-Chloro-benzyl)-(1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-pyrrolidin-3-yl)-amino]-acetic acid methyl ester (116 mg, 0.2 mmol) in THF:H2O (4:1, 10 mL total volume) was added lithium hydroxide monohydrate (17 mg, 0.4 mmol). The resultant solution was stirred at rt for 3 h. The reaction solution was quenched with 1N HCl and extracted with ethyl ether, dried over MgSO4, filtered and concentrated. The final product was filtered through filter paper and re-concentrated. This product was submitted without further purification. LCMS (retention time=1.72, ES+562); 1H NMR (CD3OD): δ 8.48 (1H, d), 7.78 (1H, d), 7.48 (2H, m), 7.31 (5H, m), 6.76 (1H, d), 6.15 (1H, t), 3.85 (2H, dd), 3.60 (2H, m), 3.30 (7H, m), 3.24 (1H, s), 3.18 (1H, m), 3.06 (1H, m), 2.58 (1H, m), 2.48 (1H, t), 2.06 (2H, m), 1.50 (6H, s).

reactant | [(4-Chloro-benzyl)-(1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-pyrrolidin-3-yl)-amino]-acetic acid methyl ester | 0.2 mmol, 116 mg | COC(CN(C1CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)CC2=CC=C(C=C2)Cl)=O | C33H38ClN3O4
reactant | lithium hydroxide monohydrate | 0.4 mmol, 17 mg | O.[OH-].[Li+]
solvent | THF H2O | 10 mL | C1CCOC1.O
product | [(4-Chloro-benzyl)-(1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-pyrrolidin-3-yl)-amino]-acetic acid | ClC1=CC=C(CN(C2CN(CC2)CCC=C2C3=C(OCC4=C2C=CC=N4)C=CC(=C3)C(C)(C)O)CC(=O)O)C=C1 | C32H36ClN3O4
